US04966975
Step (7) Preparation of N'-Hydroxy-2-(5-chloronaphthalenyl)ethanimidamide
A mixture of NaOMe (25 wt % in MeOH, 1.02 mL, 4.46 mmol), MeOH (4 mL), and hydroxylamine hydrochloride (310 mg, 4.46 mmol) was heated at reflux for 20 minutes. 5-Chloro-2-naphthalenylacetonitrile (600 mg, 2.98 mmol) and additional MeOH (4 mL) were added and heating was continued overnight. Additional hydroxylamine hydrochloride (150 mg, 2.16 mmol) and NaOMe (25 wt % in MeOH, 490 μL, 2.14 mmol) were added and heating was resumed for 4 hours. The mixture was cooled, concentrated, and suspended in H2O. The solid was collected by filtration and triturated with ether to give a pale yellow solid (478 mg, 69%), m.p. 121°-125° C.

reactant | NaOMe | 4.46 mmol, 1.02 mL | C[O-].[Na+]
reactant | hydroxylamine hydrochloride | 4.46 mmol, 310 mg | Cl.NO
reactant | 5-Chloro-2-naphthalenylacetonitrile | 2.98 mmol, 600 mg | ClC1=C2C=CC=C(C2=CC=C1)CC#N | C12H8ClN
reactant | hydroxylamine hydrochloride | 2.16 mmol, 150 mg | Cl.NO
reactant | NaOMe | 2.14 mmol, 490 μL | C[O-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | MeOH | 4 mL | CO | CH4O
product | N'-Hydroxy-2-(5-chloronaphthalenyl)ethanimidamide | 478 mg, 69% | ON=C(CC1=CC=CC2=C(C=CC=C12)Cl)N | C12H11ClN2O
